US03948939
F. Preparation of ethyl 6-bromocyclohexanone-2-carboxylate
To a stirred solution of 31 g. of ethyl cyclohexanone-2-carboxylate in 25 ml. of ether, cooled to -10° C., was added dropwise 35 g. of bromine. Stirring was continued one hour while the solution was allowed to come to room temperature. The solution was poured into ice water containing 20 g. sodium carbonate and was extracted with ether. The ether extract was washed with water, dried and evaporated to dryness to give 23 g. of the title compound; b.p. 88°-91°C. (0.2 mm).

reactant | ethyl cyclohexanone-2-carboxylate | CCOC(=O)C1CCCCC1=O | C9H14O3
reactant | bromine | BrBr | Br2
solvent | ether | CCOCC | C4H10O
product | ethyl 6-bromocyclohexanone-2-carboxylate | CCOC(=O)C1CCCC(C1=O)Br | C9H13BrO3
